US06927228B2
(c) 4″-Formyl-N-methyl[1,1′;3′,1″]terphenyl-5′-carboxamide
In a manner similar to that of Example 1(e), by reacting 2 g (7 mmol) of 5-bromo-N-methyl-3-biphenylcarboxamide and 1.4 g (9.3 mmol) of 4-formylbenzene boronic acid, and after purification by recrystallization from acetonitrile, 1.4 g (63%) of the expected product are obtained in the form of a beige-colored solid.

reactant | 5-bromo-N-methyl-3-biphenylcarboxamide | 7 mmol, 2 g | BrC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)NC | C14H12BrNO
reactant | 4-formylbenzene boronic acid | 9.3 mmol, 1.4 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 4″-Formyl-N-methyl[1,1′;3′,1″]terphenyl-5′-carboxamide | C(=O)C1=CC=C(C=C1)C=1C=C(C=C(C1)C(=O)NC)C1=CC=CC=C1 | C21H17NO2
